US05659084
Preparation of N-[(2-(8-phenyloctyl)phenyl)methylene]-1,1-dimethylethanamine
To a stirred solution of diisopropylamine (29.14 g,0.289 mol) in tetrahydrofuran (450 mL) cooled to -5° C. was added n-butyllithium (2.5M, 114.3 mL, 0.286 mol) at a rate which maintained the solution temperature below 10° C. After the addition was complete, the solution was stirred 15 min with cooling. To this solution was added N-[(2-methylphenyl)-methylene]-1,1-dimethylethanamine (50.0 g, 0.286 mol) in tetrahydrofuran (65.0 mL) at such a rate as to keep the reaction temperature below 5° C. The reaction was stirred for 15 min with cooling then 1-bromo-7-phenylheptane (72.9 g, 0.286 mol) in tetrahydrofuran (75 mL) was quickly added. The reaction mixture was stirred for 1 h with cooling then allowed to warm to room temperature and stirred for an additional 14 h. The reaction mixture was assayed by gas chromatography for product imine (RT 19.8 min., DB-1, 30 m×0.53 mm, program, 100° C. for 5 min, 100°-260° C. at 15° C./min, hold at 260° C. for 12 min.). The product was isolated by dilution of the reaction mixture with water and methylene chloride, quickly washing the organic mixture with water, and concentrating the solution to an oil. The oil was purified by distillation.

reactant | diisopropylamine | 0.289 mol, 29.14 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.286 mol, 2.5M, 114.3 mL | C(CCC)[Li]
reactant | N-[(2-methylphenyl)-methylene]-1,1-dimethylethanamine | 0.286 mol, 50.0 g | CC1=C(C=CC=C1)C=NC(C)(C)C | C12H17N
reactant | 1-bromo-7-phenylheptane | 0.286 mol, 72.9 g | BrCCCCCCCC1=CC=CC=C1 | C13H19Br
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 65.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[(2-(8-phenyloctyl)phenyl)methylene]-1,1-dimethylethanamine | C1(=CC=CC=C1)CCCCCCCCC1=C(C=CC=C1)C=NC(C)(C)C | C25H35N
